US09351973B2
n-butyl lithium (92.3 mL, 0.147 mol, 1.6 M) was added to a solution of diisopropyl amine (20.1 mL, 0.147 mol) in tetrahydrofuran (120 mL) at −78° C. and allowed to stir for 30 min at 0° C. The reaction mixture was cooled to −78° C. and a solution of 3-bromo-5-fluoro-pyridine (20.0 g, 0.113 mol) in tetrahydrofuran (20 mL) was added and stirred for 30 min. Ethyl iodide (8.85 mL, 0.124 mol) was added to reaction mixture and allowed to stir at room temperature for 2 h. The reaction mixture was quenched with saturated ammonium chloride (100 mL) solution and extracted with ethyl acetate (3×200 mL). The combined organic extracts were washed with saturated sodium chloride, dried over sodium sulphate and concentrated to provide 3-bromo-5-fluoro-4-ethyl pyridine. 1H NMR (400 MHz, CDCl3) δ 8.49 (s, 1 H), 8.31 (s, 1 H), 2.87-2.82 (m, 2 H), 1.22-1.19 (t, J=4.0 Hz, 3 H). MS (M+1): 205.8.

reactant | n-butyl lithium | 0.147 mol, 1.6 M, 92.3 mL | C(CCC)[Li]
reactant | diisopropyl amine | 0.147 mol, 20.1 mL | C(C)(C)NC(C)C | C6H15N
reactant | 3-bromo-5-fluoro-pyridine | 0.113 mol, 20.0 g | BrC=1C=NC=C(C1)F | C5H3BrFN
reactant | Ethyl iodide | 0.124 mol, 8.85 mL | C(C)I | C2H5I
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-bromo-5-fluoro-4-ethyl pyridine | BrC=1C=NC=C(C1CC)F | C7H7BrFN
